US08389508B2
To a solution of [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]acetaldehyde (90 mg, 0.224 mmol) (D15) in Dichloromethane (DCM) (20 mL) stirred at room temperature was added methyl L-prolinate (149 mg, 0.898 mmol) and AcOH (0.15 mL, 2.62 mmol). The reaction mixture was stirred at room temperature for 10 min, and sodium triacetoxyborohydride (110 mg, 0.522 mmol) was added. The reaction mixture was continuously stirred overnight. The reaction was quenched with water, and EtOH was evaporated in vacuo. i-PrOH was added, followed by sodium hydroxide (8.98 mg, 0.224 mmol). The reaction mixture was stirred for another 2 hours. i-PrOH was evaporated in vacuo. The aqeuous layer was extracted by EA/THF for 3 times. The combined organic solution was washed by brine. The organic layers were concentrated, and purified by Mass Directed AutoPrep to afford 1-{2-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]ethyl}-L-proline (E52) (24 mg) as a off-white solid.

reactant | [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]acetaldehyde | 0.224 mmol, 90 mg | ClC=1C=C(C=CC1OC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CC=O)CC | C21H21ClN2O2S
reactant | methyl L-prolinate | 0.898 mmol, 149 mg | N1[C@H](C(=O)OC)CCC1 | C6H11NO2
reactant | AcOH | 2.62 mmol, 0.15 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.522 mmol, 110 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 0.224 mmol, 8.98 mg | [OH-].[Na+]
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-{2-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]ethyl}-L-proline | 24 mg | ClC=1C=C(C=CC1OC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CCN1[C@H](C(=O)O)CCC1)CC | C26H30ClN3O3S
